US08106077B2
To a solution of 3-(2-(4-hydroxy-2-methyl-phenyl)-vinyl)-benzoic acid methyl ester (0.09 4 g, 0.351 mmol) and (3-(2,6-dichloro-phenyl)-5-isopropyl-3H-(1,2,3)triazol-4-yl)-methanol (0.100 g, 0.351 mmol) in THF (3 mL) are added triphenylphosphine (0.184 g, 0.702 mmol) and diethyl azodicarboxylate (0.120 g, 0.720 mmol). The reaction is stirred overnight. The reaction is partitioned between ether and water. The organic layer is washed with brine and dried over sodium sulfate. The organic layers are filtered and concentrated. The crude solid is purified via flash chromatography using hexane:ethyl acetate (2:1) as eluent to give 3-(2-(4-(3-(2,6-Dichloro-phenyl)-5-isopropyl-3-H-(1,2,3)triazol-4ylmethyoxy)-2-methyl-phenyl)-vinyl)-benzoic acid methyl ester (0.04 g). ES/MS m/e (35Cl/37Cl) 535.8/538.2 (M+1).

reactant | 3-(2-(4-hydroxy-2-methyl-phenyl)-vinyl)-benzoic acid methyl ester | 0.351 mmol, 4 g | COC(C1=CC(=CC=C1)C=CC1=C(C=C(C=C1)O)C)=O | C17H16O3
reactant | (3-(2,6-dichloro-phenyl)-5-isopropyl-3H-(1,2,3)triazol-4-yl)-methanol | 0.351 mmol, 0.100 g | ClC1=C(C(=CC=C1)Cl)N1N=NC(=C1CO)C(C)C | C12H13Cl2N3O
reactant | triphenylphosphine | 0.702 mmol, 0.184 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.720 mmol, 0.120 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-(2-(4-(3-(2,6-Dichloro-phenyl)-5-isopropyl-3-H-(1,2,3)triazol-4ylmethyoxy)-2-methyl-phenyl)-vinyl)-benzoic acid methyl ester | 0.04 g | COC(C1=CC(=CC=C1)C=CC1=C(C=C(C=C1)OCC=1N(N=NC1C(C)C)C1=C(C=CC=C1Cl)Cl)C)=O | C29H27Cl2N3O3
